US07071175B1
To a stirred suspension of copper iodide (5.71 g, 30 mmol) in diethyl ether (120 mL) under argon was added ethylmagnesium bromide (3 M solution in diethyl ether, 20 mL, 20 mmol) within 10 min at 0° C. After 5 min stirring the mixture was cooled to −78° C. and a solution of 2-(6tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester (5.47 g, 15.0 mmol) in tetrahydrofurane (60 mL) was added dropwise with in 0.5 h. During this period tetrahydrofurane (40 mL) was added. The mixture was allowed to stir at −40° C. for 2.5 h. Then a solution of ammonium chloride (5%) in aqueous ammonia solution (5%) was added with vigorous stirring, allowing access of air, and the mixture was warmed up to room temperature. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed successively with aqueous ammonia solution (5%) and brine, and dried over magnesium sulphate. The solvent was removed under reduced pressure and the residue was recrystallised from a mixture of diisopropyl ether and tetrahydrofurane (5:1, vol./vol.) to give 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propyl]-malonic acid diethyl ester (3.23 g, 55%).

reactant | ethylmagnesium bromide | 20 mmol, 3 M, 20 mL | C(C)[Mg]Br
reactant | 2-(6tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester | 15.0 mmol, 5.47 g | C(C)OC(C(C(=O)OCC)=CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H24N2O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
solvent | tetrahydrofurane | 60 mL | O1CCCC1 | C4H8O
solvent | ammonia | N | H3N
catalyst | copper iodide | 30 mmol, 5.71 g | [Cu](I)I
solvent | tetrahydrofurane | 40 mL | O1CCCC1 | C4H8O
product | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propyl]-malonic acid diethyl ester | 3.23 g, 55% | C(C)OC(C(C(=O)OCC)C(CC)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C20H30N2O6
